US09216173B2
The 5-{[(1R,2S)-2-aminocyclohexyl]amino}-3-[(4,6-dimethylpyridin-2-yl)amino]pyridine-2-carboxamide hydrochloric acid salt (21.5 g, 50.3 mmol) was diluted with methanol (200 mL) and ammonia (7.0 M solution in methanol, 21.6 mL, 151 mmol). After 30 minutes, the reaction mixture was diluted with water (190 mL) and stirred. After 30 minutes, the reaction mixture was filtered, and the solids were washed with water (2×75 mL) and dried to afford 5-{[(1R,2S)-2-aminocyclohexyl]amino}-3-[(4,6-dimethylpyridin-2-yl)amino]pyridine-2-carboxamide. MS ESI calc'd. for C19H27N6O [M+H]+ 355. found 355. 1H NMR (600 MHz, CD3OD) δ 8.47 (d, J=2.4 Hz, 1H), 7.58 (d, J=2.4 Hz, 1H), 6.58 (s, 1H), 6.47 (s, 1H), 3.61-3.49 (m, 1H), 3.26-3.22 (m, 1H), 2.39 (s, 3H), 2.23 (s, 3H), 1.87-1.55 (m, 6H), 1.49-1.39 (m, 2H).

reactant | 5-{[(1R,2S)-2-aminocyclohexyl]amino}-3-[(4,6-dimethylpyridin-2-yl)amino]pyridine-2-carboxamide hydrochloric acid salt | 50.3 mmol, 21.5 g | Cl.N[C@@H]1[C@@H](CCCC1)NC=1C=C(C(=NC1)C(=O)N)NC1=NC(=CC(=C1)C)C
reactant | ammonia | 151 mmol, 7.0 M, 21.6 mL | N | H3N
solvent | methanol | 200 mL | CO | CH4O
solvent | water | 190 mL | O | H2O
product | 5-{[(1R,2S)-2-aminocyclohexyl]amino}-3-[(4,6-dimethylpyridin-2-yl)amino]pyridine-2-carboxamide | N[C@@H]1[C@@H](CCCC1)NC=1C=C(C(=NC1)C(=O)N)NC1=NC(=CC(=C1)C)C | C19H26N6O
